US06933295B2
4-[2-(4-Amino-1,3-dioxo-1,3,3a,4,7,7a-hexahydro-2H-isoindol-2-yl)ethyl]-benzonitrile
1.008 g (2.55 mmol) of tert-butyl 2-[2-(4-cyanophenyl)ethyl]-1,3-dioxo-2,3,3a,4,7,7a-hexahydro-1H-isoindol-4-ylcarbamate are dissolved in 20 ml of dichloromethane, and 0.79 ml (10.2 mmol) of trifluoroacetic acid is added. After 4 h of stirring at room temperature, the reaction mixture is concentrated using a rotary evaporator and worked up using EtOAc and saturated aqueous NaHCO3 solution. The organic phase is dried over magnesium sulfate, filtered and concentrated using a rotary evaporator. The crude product is chromatographed on silica gel (CH2Cl2/EtOH=50/1+0.5% aqueous NH3 solution (25% strength)). This gives 530 mg (70% of theory) of the desired compound. MS=337 (M+H+MeCN), 296 (M+H), rt (Method 4)=2.04 min.

reactant | tert-butyl 2-[2-(4-cyanophenyl)ethyl]-1,3-dioxo-2,3,3a,4,7,7a-hexahydro-1H-isoindol-4-ylcarbamate | 2.55 mmol, 1.008 g | C(#N)C1=CC=C(C=C1)CCN1C(C2CC=CC(C2C1=O)NC(OC(C)(C)C)=O)=O | C22H25N3O4
reactant | trifluoroacetic acid | 10.2 mmol, 0.79 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-[2-(4-Amino-1,3-dioxo-1,3,3a,4,7,7a-hexahydro-2H-isoindol-2-yl)ethyl]-benzonitrile | NC1C2C(N(C(C2CC=C1)=O)CCC1=CC=C(C#N)C=C1)=O | C17H17N3O2
